Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Codeine
 
Attending: ___.
 
Chief Complaint:
Fall with headstrike
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH spondylosis, migraine, hypothyroidism (not on Rx), HLD, 
IBS, HTN, vertebral artery dissection, CVA, Hx hyponatremia, 
BIBEMS from assisted living facility for fall injury with head 
strike and LOC. 

One fall this morning, not occurring again since, no apparent 
chronic issues with falls or weakness (had remote CVA but denies 
motor deficits). Pt does not recall any details regarding fall, 
though per the patient, the staff at the assisted living told 
her they saw the fall and that she tripped over a walker of 
another resident, which was inappropriately left there. No loss 
of bowel
bladder, though details are incomplete. No report of 
seizure-like movements. Head strike and elbow still 

Limited home meds taken. On clonazepam, baby aspirin every other 
day and fiorecet, but no recent chnges. 

In ED:
VS: afeb, HR ___, 179/80 --> 145/90, 99% RA
ED Exam: NAD, normal card/pulm; 1.5cm lac on left elbow with TTP
Labs: wbc 7.5, hb 13.2, plt 260; BMP unremarkable except bcb 19;
trop neg x2
Imaging: CTH nothing acute, CXR nothing acute, ?occult fracture
per read of left elbow
Received: fioricet, ibuprofen, tetanus booster, klonipin (Home
med), CTX 1g
Consult: 
- ortho: no fracture
- trauma: no intervention needed

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
spondylosis, migraine, hypothyroidism (not on Rx), HLD, IBS, 
HTN, vertebral artery dissection, CVA, Hx hyponatremia
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.

 
Physical Exam:
Admission Exam:
===============
VITALS: Afebrile and vital signs significant for normotensive,
oxygenating well
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes. Left elbow with laceration, now cleaned and
bandaged
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout; PERRL, CN2-12 intact, ___ strength UE, ___
PSYCH: pleasant, appropriate affect

Discharge Exam:
================
VSS, orthostatics negative
Well appearing, comfortable, talkative
MMM, OP clear
RRR, no murmurs
Lungs clear bilaterally
Abdomen soft, non-tender, nondistended
Left elbow with swelling and ttp, small 1cm laceration is clean 
without ongoing open wound, near full ROM with moderate pain at 
left elbow
Neuro: CN II-XII intact
 
Pertinent Results:
Admission Labs:
===============
___ 09:50AM BLOOD WBC-7.5 RBC-4.20 Hgb-13.2 Hct-40.5 MCV-96 
MCH-31.4 MCHC-32.6 RDW-13.3 RDWSD-47.8* Plt ___
___ 09:50AM BLOOD Neuts-60.0 ___ Monos-8.8 Eos-1.3 
Baso-0.7 Im ___ AbsNeut-4.51 AbsLymp-2.17 AbsMono-0.66 
AbsEos-0.10 AbsBaso-0.05
___ 09:50AM BLOOD Glucose-108* UreaN-14 Creat-0.7 Na-135 
K-5.0 Cl-101 HCO3-19* AnGap-15
___ 09:50AM BLOOD ALT-28 AST-33 AlkPhos-81 TotBili-0.2
___ 09:50AM BLOOD Lipase-28
___ 09:50AM BLOOD cTropnT-<0.01
___ 09:50AM BLOOD Albumin-4.4 Calcium-9.9 Phos-3.7 Mg-2.1
___ 01:22PM BLOOD cTropnT-<0.01

Discharge Labs:
===============
___ 06:34AM BLOOD WBC-9.3 RBC-3.90 Hgb-12.5 Hct-37.1 MCV-95 
MCH-32.1* MCHC-33.7 RDW-13.4 RDWSD-46.9* Plt ___
___ 06:34AM BLOOD Glucose-101* UreaN-15 Creat-0.7 Na-134* 
K-4.2 Cl-100 HCO3-22 AnGap-12

CXR read as no acute process

Plain film, left elbow: 
IMPRESSION:  
  
Findings suggestive of occult nondisplaced fracture though no
definite fracture seen given joint effusion. Gas within the soft
tissues corresponds to clinical findings of skin laceration. 

CT head, c-spine read as: 
1.  No acute intracranial abnormality.  Please note MRI of the
brain is more sensitive for the detection of acute infarct. 
2. No evidence acute intracranial hemorrhage or fracture. 
3. Atrophy, probable small vessel ischemic changes, and
atherosclerotic vascular disease as described. 
4. Minimal paranasal sinus disease , as described. 

  
1. Dental amalgam streak artifact and diffuse osteopenia limits 
study. 
2. Within limits of study, no definite evidence of acute 
cervical spine 
fracture. 
3. 5 mm right thyroid lobe nodule. 

UCx: ___ Ecoli
 
Brief Hospital Course:
___ PMH spondylosis, migraine, hypothyroidism (not on Rx), HLD, 
IBS, HTN, vertebral artery dissection, CVA, Hx hyponatremia, 
BIBEMS from assisted living facility for fall injury with head 
strike and LOC.

#Mechanical fall
#Headache 
Per ongoing discussion with the patient's assisted living 
facility, patient's fall was seen to be mechanical with reported 
witnessed trip over food stand between living room and dining 
room. Trauma work-up negative in the ED except for elbow 
laceration as below. Low concern for cardiac cause of syncope. 
Tele with PVCs but otherwise unremarkable. Orthostatics 
negative. Her headache was treated with home fiorecet and 
ibuprofen with good effect. She was able to ambulate steadily 
with nursing on day of discharge and was deemed safe for 
discharge. 

#Elbow laceration: Found to have left elbow laceration which was 
cleaned in the ED and allowed to close. Xray of the left elbow 
read as c/f fracture however seen by orthopedics who did not 
feel there was a fracture. They recommended follow-up in 2 weeks 
with ortho trauma which patient can call to arrange. Patient 
encouraged to keep wound covered and monitor for s/s of 
infection. Additional counseled to continue arm exercises to 
maintain ROM given swellilng. 

#Hyponatremia: Has reported history of hyponatremia without 
clear etiology. Noted to have mild hyponatremia to sodium of 134 
on day of discharge. Advised repeat sodium check within one week 
of discharge. 

#Bacteriuria: Patient noted to have bacteruria however without 
symptoms of UTI. Received 1 dose of CTX in the ED which was 
subsequently stopped. UCx grew ___ E Coli. 

CHRONIC/STABLE PROBLEMS:
#psych: Continued home clonazepam
#headache: Continued home fiorocet as above

Transitional Issues:
=====================
[ ]Patient should follow-up with orthopedic surgery within 2 
weeks of discharge
[ ]Please repeat sodium level within 1 week of discharge. 
Discharge sodium 134. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO EVERY OTHER DAY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
3. ClonazePAM 0.5 mg PO TID 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild Duration: 5 Days 
Please take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
2.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache  
3.  Aspirin 81 mg PO EVERY OTHER DAY  
4.  ClonazePAM 0.5 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mechanical fall with headstrike
Left elbow laceration with swelling
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital after a fall with head strike. 
You had a CT of your head and neck which did not show any 
fractures. Work-up was negative for cardiac causes of your fall 
and in further discussion with your assisted living facility, it 
sounds as though your fall was mechanical in nature, from 
tripping over a kitchen stand. 

For your headache, you can continue to take fiorocet and 
ibuprofen alternating for pain. Please do not take more than 
prescribed and always take ibuprofen with food. 

You were also found to have a laceration (cut) on your left 
elbow and there was initial concern for a possible fracture of 
your elbow. You were seen by the orthopedic surgeons who felt a 
fracture was highly unlikely. They recommended that you see them 
in follow-up to ensure you are healing in 2 weeks. In the mean 
time, please continue to cover the cut on your elbow and ensure 
you are moving your arm consistently to prevent it from locking. 
Please let your PCP know if you develop worsening pain, swelling 
or redness at the site of your laceration. 

Your sodium was mildly low on day of discharge. Please have your 
sodium re-checked with your PCP ___ 1 week of discharge. 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___